US07326791B2
rac.-4-[3-(aminocarbonyl)-5,6-dihydro-4H-cyclopentapyrazol-1-yl]-N-[1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-3-trifluoromethylbenzamide
130 mg (0.19 mmol) of rac.-N-[1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-4-[3-(ethoxycarbonyl)-5,6-dihydro-4H-cyclopentapyrazol-1-yl]-3-trifluoromethylbenzamide is dissolved in 5 mL of methanol, combined with 6 mL of concentrated ammonia solution, and stirred for 17 hours at 65° C. in a Schlenk flask. The cooled reaction solution is poured onto ice water, adjusted to pH 7.5 with concentrated hydrochloric acid and extracted with ethyl acetate. The organic phases are dried and concentrated by evaporation. The residue is chromatographed on silica gel, eluting with ethyl acetate/ethanol (0%-5%). Yield: 50 mg (51%); Rf value: 0.38 (silica gel; ethyl acetate/ethanol=9:1); C24H20ClF3N6O2 (516.91); mass spectrum: (M−H)−=515/517 (chlorine isotope).

reactant | rac.-N-[1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-4-[3-(ethoxycarbonyl)-5,6-dihydro-4H-cyclopentapyrazol-1-yl]-3-trifluoromethylbenzamide | 0.19 mmol, 130 mg | ClC1=CC2=C(NC(=N2)C(C)NC(C2=CC(=C(C=C2)N2N=C(C3=C2CCC3)C(=O)OCC)C(F)(F)F)=O)C=C1 | C26H23ClF3N5O3
reactant | ammonia | 6 mL | N | H3N
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 5 mL | CO | CH4O
product | rac.-4-[3-(aminocarbonyl)-5,6-dihydro-4H-cyclopentapyrazol-1-yl]-N-[1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-3-trifluoromethylbenzamide | NC(=O)C1=NN(C2=C1CCC2)C2=C(C=C(C(=O)NC(C)C1=NC3=C(N1)C=CC(=C3)Cl)C=C2)C(F)(F)F | C24H20ClF3N6O2
